US05620997
3-Methyl-2-(3-oxo-3h-benzo[d]isothiazol-2-yl)-butanoic acid
Following the procedure of Example 13, 6.0 g (13.6 mol) of 2-[2-[2-(1-carboxy-3-methylbutyl carbamoyl)phenyldisulfanyl]benzoylamino]-3-methylbutanoic acid was reacted with bromine to provide 2.25 g of the title compound, mp 166°-168° C.

reactant | 2-[2-[2-(1-carboxy-3-methylbutyl carbamoyl)phenyldisulfanyl]benzoylamino]-3-methylbutanoic acid | 13.6 mol, 6.0 g | C(=O)(O)C(CC(C)C)NC(=O)C1=C(C=CC=C1)SSC1=C(C(=O)NC(C(=O)O)C(C)C)C=CC=C1 | C25H30N2O6S2
reactant | bromine | BrBr | Br2
product | 3-Methyl-2-(3-oxo-3h-benzo[d]isothiazol-2-yl)-butanoic acid | 2.25 g | CC(C(C(=O)O)N1SC2=C(C1=O)C=CC=C2)C | C12H13NO3S
